US07034018B2
3-{2-[Dimethylamino-(2-methoxyphenyl)-methyl]-pyrrol-1-yl}-propionitrile
The preparation was carried out in accordance with general synthesis instructions 4 from 3-pyrrol-1-yl-propionitrile and (2-methoxy-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 7.

reactant | 3-pyrrol-1-yl-propionitrile | N1(C=CC=C1)CCC#N | C7H8N2
reactant | (2-methoxy-benzylidene)-dimethyl-ammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1
product | 3-{2-[Dimethylamino-(2-methoxyphenyl)-methyl]-pyrrol-1-yl}-propionitrile | CN(C)C(C=1N(C=CC1)CCC#N)C1=C(C=CC=C1)OC | C17H21N3O
